US05089654
To a solution of 87.7 g of n-heptylbenzene in a mixture of 160 ml of nitroethane and 480 ml of dichloroethane was added little by little 79.5 g of anhydrous aluminum chloride with ice cooling, followed by adding dropwise a solution of 54.5 ml. of dichloromethyl methyl ether in 60 ml of dichloroethane. After completion of the addition, the reaction was carried out at 0° C. for a further one hour. The reaction mixture was poured into ice water and extracted with chloroform. The organic layer was washed with water and dried, and the solvent was evaporated. The residue was chromatographed on silica gel column with a solvent of n-hexane - isopropyl ether (10:1) to give 17.3 g of 2-heptylbenzaldehyde as a colorless oil from the first eluted fractions and 64.8 g of 4-heptylbenzaldehyde as a colorless oil from the later eluted fractions.

reactant | n-heptylbenzene | 87.7 g | C(CCCCCC)C1=CC=CC=C1 | C13H20
reactant | aluminum chloride | 79.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloromethyl methyl ether | COC(Cl)Cl | C2H4Cl2O
solvent | nitroethane | 160 ml | [N+](=O)([O-])CC | C2H5NO2
solvent | dichloroethane | 480 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
product | 2-heptylbenzaldehyde | 17.3 g | C(CCCCCC)C1=C(C=O)C=CC=C1 | C14H20O
